US04703046
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 0.58 g.) was treated with conc. hydrochloric acid (0.16 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 0.5 g.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid | 0.58 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=CC=C2)=O)C(=O)O)C1=O)=NOC)Br | C22H18BrN5O8S2
reactant | hydrochloric acid | 0.16 ml | Cl | ClH
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride | 0.5 g | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=CC=C2)=O)C(=O)O)C1=O)=NOC)Br | InChI=1S/C21H18BrN5O7S2.ClH/c1-33-26-12(11-15(22)36-21(23)25-11)16(28)24-13-17(29)27-14(19(30)31)10(8-35-18(13)27)7-34-20(32)9-5-3-2-4-6-9;/h2-6,13,18H,7-8H2,1H3,(H2,23,25)(H,24,28)(H,30,31);1H/t13?,18-;/m1./s1
